US06034275
A solution of 22.9 g of (4-bromo-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone in 140 ml of acetic acid and 100 ml of 62% aqueous HBr solution is boiled under reflux for 13 hrs., subsequently evaporated, re-evaporated with toluene and taken up in ethyl acetate. The inorganic phase is washed with saturated sodium hydrogen carbonate solution and 10% sodium chloride solution and dried. After crystallization from methylene chloride/ether/pentane there are obtained 20.8 g of (4-bromo-phenyl)-(2,5-difluoro-4-hydroxy-phenyl)-methanone.

reactant | (4-bromo-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone | 22.9 g | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C(=C1)F)OC)F | C14H9BrF2O2
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
solvent | HBr | 100 ml | Br | BrH
product | (4-bromo-phenyl)-(2,5-difluoro-4-hydroxy-phenyl)-methanone | 20.8 g | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C(=C1)F)O)F | C13H7BrF2O2
